US05594081
(1) Synthesis of 2-tert-butyl-4-bromo-1-indanol
To a solution of 2-tert-butyl-4-bromo-1-indanone in a mixture of methanol (100 ml) and tetrahydrofuran (200 ml) was added sodium borohydride (1.58 g) at room temperature. After stirring at the same temperature, the reaction mixture was poured into dilute hydrochloric acid, and the aqueous layer was saturated with saline and extracted with ether. The organic layer was saturated with a saturated aqueous saline solution, dried over magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residual concentrate (7.49 g) thus obtained was used for the next reaction without further purification.

reactant | 2-tert-butyl-4-bromo-1-indanone | C(C)(C)(C)C1C(C2=CC=CC(=C2C1)Br)=O | C13H15BrO
reactant | sodium borohydride | 1.58 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-tert-butyl-4-bromo-1-indanol | C(C)(C)(C)C1C(C2=CC=CC(=C2C1)Br)O | C13H17BrO
